US09062070B2
Step A: (S)-tert-butyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate
(S)-4-Methyl-5-(oxiran-2-yl)isobenzofuran-1(3H)-one (0.75 g, 3.95 mmol) and (S)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate (1.02 g, 4.73 mmol) in ethanol (12 mL) were heated in microwave at 150° C. for 1.5 h. The reaction solution was concentrated and the residue was purified by MPLC on a Biotage system using 40-100% ethyl acetate/hexane to give the title compound. LC/MS: (M+1)+: 407.15.

reactant | (S)-4-Methyl-5-(oxiran-2-yl)isobenzofuran-1(3H)-one | 3.95 mmol, 0.75 g | CC1=C2COC(C2=CC=C1[C@@H]1OC1)=O | C11H10O3
reactant | (S)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate | 4.73 mmol, 1.02 g | OC[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | (S)-tert-butyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | O[C@H](CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)C=1C(=C2COC(C2=CC1)=O)C | C21H30N2O6
